US05262540
A mixture of methyl 3-[3-[(4,5-diphenyl-2-oxazolyl)-methoxy]phenyl]propanoate (6 g, 14.5 mmol), 5N sodium hydroxide solution (8.7 mL) and methanol (150 mL) was heated to reflux on a steam bath. After 20 minutes the mixture was concentrated, diluted with water (200 mL) and 2N hydrochloric acid solution to pH=1. After filtration and drying in air overnight, the solid was recrystallized from a mixture of hexanes and CH2Cl2 to give 3-[3-[(4,5-diphenyl-2-oxazolyl)methoxy]phenyl]propanoic acid (4.15 g, 71%), m.p. 118°-120° C.

reactant | methyl 3-[3-[(4,5-diphenyl-2-oxazolyl)-methoxy]phenyl]propanoate | 14.5 mmol, 6 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)COC=1C=C(C=CC1)CCC(=O)OC | C26H23NO4
reactant | sodium hydroxide | 5N, 8.7 mL | [OH-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
product | 3-[3-[(4,5-diphenyl-2-oxazolyl)methoxy]phenyl]propanoic acid | 4.15 g, 71% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)COC=1C=C(C=CC1)CCC(=O)O | C25H21NO4
